US04545995
Add 2.1 g (5.6 mmole) of (E)-4-(4-chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride to a suspension of 0.11 g catalyst (rhodium (5%) on carbon) in 100 ml glacial acetic acid and stir under 1 atmosphere hydrogen for 19 hours at room temperature. Filter through celite and then wash celite with 100 ml H2O. Combine filtrates and extract into 4×100 ml methylene chloride. Wash methylene chloride extracts with 1×100 ml 1N HCl, 2×250 ml saturated aqueous sodium bicarbonate and 200 ml saturated aqueous sodium chloride. Dry methylene chloride over sodium sulfate, filter and evaporate solvent to provide 4-chloro-N,N-diethyl-N-heptylbenzenebutanaminium chloride. Dissolve product in 75 ml H2O/MeOH (50:50) and pour onto column containing 6 g anion exchange resin (hydroxide form BIO-RAD AG-1-X8). Elute sample through column with distilled water and collect eluate having pH≥9. Wash this aqueous solution with 2×150 ml methylene chloride. Titrate sample to pH= 5.0 with 10% phosphoric acid and to pH=4.5 with 0.1N phosphoric acid. Evaporate to provide 1.25 (51%) of title compound.

reactant | (E)-4-(4-chlorophenyl)-N,N-diethyl-N-heptyl-2-buten-1-aminium chloride | 5.6 mmole, 2.1 g | [Cl-].ClC1=CC=C(C=C1)C/C=C/C[N+](CCCCCCC)(CC)CC
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 100 ml | C(C)(=O)O | C2H4O2
product | 4-chloro-N,N-diethyl-N-heptylbenzenebutanaminium chloride | [Cl-].ClC1=CC=C(C=C1)CCCC[N+](CCCCCCC)(CC)CC | InChI=1S/C21H37ClN.ClH/c1-4-7-8-9-11-18-23(5-2,6-3)19-12-10-13-20-14-16-21(22)17-15-20;/h14-17H,4-13,18-19H2,1-3H3;1H/q+1;/p-1
